US06255307B1
9. 2-Amino-6-acetamido-3-(2,3,5-trichlorophenyl)pyrazine
A mixture of 2-amino-3-bromo-6-acetamidopyrazine (7.00 g, 0.03 mole) in benzene (60.90 ml) and tetrakis(triphenylphosphine)palladium(0) was stirred under nitrogen at room temperature for 10 minutes. 2M aqueous sodium carbonate (30.24 ml) was added to the mixture followed by a solution of 2,3,5-trichlorobenzene boronic acid (6.83 g, 0.03 mole) in absolute ethanol (7.07 ml) and the mixture refluxed under nitrogen for 17 hrs. A further equivalent of 2,3,5-trichlorobenzene boronic acid in absolute ethanol was then added and the mixture refluxed for an additional 7.50 hrs. Finally, another equivalent of 2,3,5-trichlorobenzene boronic acid in absolute ethanol was added to the mixture and continued refluxing for 17 hrs. The cooled mixture was evaporated in vacuo. The residue was dissolved in chloroform (150 ml), washed with aqueous saturated sodium bicarbonate (1×100 ml) and water (1×100 ml), dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated down in vacuo. The residue was purified by ‘flash chromatography’ using chloroform to 98:2 chloroform:methanol as the eluent. Yield 3.02 g (30%), M.p. 200-203° C.

reactant | 2-amino-3-bromo-6-acetamidopyrazine | 0.03 mole, 7.00 g | NC1=NC(=CN=C1Br)NC(C)=O | C6H7BrN4O
reactant | sodium carbonate | 2M, 30.24 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,3,5-trichlorobenzene boronic acid | 0.03 mole, 6.83 g | ClC1=C(C=C(C=C1Cl)Cl)B(O)O | C6H4BCl3O2
solvent | benzene | 60.90 ml | C1=CC=CC=C1 | C6H6
solvent | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 7.07 ml | C(C)O | C2H6O
product | 2-Amino-6-acetamido-3-(2,3,5-trichlorophenyl)pyrazine | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)NC(C)=O | C12H9Cl3N4O
